US07682404B2
129 g (1.72 mol) 2-methylamino-ethanol and 390 mg (2.86 mmol) zinc(II)-chloride are successively added to a suspension of 15.3 g (57.2 mmol) 4′-chloro-2,2′;6,2″-terpyridine in 100 ml 2-methyl-2-butanol. The reaction mixture is refluxed for 2.5 days. A brown suspension is obtained, which is evaporated under vacuum to a yellow-brown solid product. 100 ml water is added to this product and stirred at room temperature for 20 minutes. Then, the obtained mixture is filtrated and the filter residue dried for 12 hours at (45° C., 10 mbar). 14.8 g (84%) of 2-(methyl-[2,2′;6′2″]terpyridine-4′yl-amino)-ethanol as colourless solid product is obtained.

reactant | 2-methylamino-ethanol | 1.72 mol, 129 g | CNCCO | C3H9NO
reactant | 4′-chloro-2,2′;6,2″-terpyridine | 57.2 mmol, 15.3 g | ClC1=CC(=NC=C1)C1=NC(=CC=C1)C1=NC=CC=C1 | C15H10ClN3
solvent | 2-methyl-2-butanol | 100 ml | CC(C)(CC)O | C5H12O
catalyst | zinc(II)-chloride | 2.86 mmol, 390 mg | [Cl-].[Zn+2].[Cl-]
product | 2-(methyl-[2,2′;6′2″]terpyridine-4′yl-amino)-ethanol | 14.8 g, 84% | CN(CCO)C1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C18H18N4O
